US05726165
(S)-4-{2-[3-(4-Benzyloxyphenoxy)-2-hydroxypropylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester
The title compound was prepared from 4-(2-aminoethyl)phenoxy methylcyclohexylphosphinic acid, n-butyl ester and (S)-2-(4-benzyloxyphenoxymethyl)oxirane according to the method described in Procedure 13.

reactant | 4-(2-aminoethyl)phenoxy methylcyclohexylphosphinic acid, n-butyl ester | NCCC1CCC(CC1)P(OCCCC)(=O)COC1=CC=CC=C1 | C19H32NO3P
reactant | (S)-2-(4-benzyloxyphenoxymethyl)oxirane | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
product | (S)-4-{2-[3-(4-Benzyloxyphenoxy)-2-hydroxypropylamino]ethyl}phenoxymethylcyclohexylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)OC1=CC=C(OCC(CNCCC2CCC(CC2)[P@@](OCCCC)(=O)COC2=CC=CC=C2)O)C=C1 | C35H48NO6P
